US04847386
4-Amino-3-methoxycarbonylthiophene hydrochloride
4-Oxo-3-methoxycarbonyltetrahydrothiophene (3.9 g) was heated under reflux for 1 hour with hydroxylamine hydrochloride (2 g) in acetonitrile 10 ml). The mixture was then cooled and the solid portion was filtered off and washed with dry diethyl ether to afford the title compound (3.65 g), m.p. 203°-204° C.

reactant | 4-Oxo-3-methoxycarbonyltetrahydrothiophene | 3.9 g | O=C1C(CSC1)C(=O)OC | C6H8O3S
reactant | hydroxylamine hydrochloride | 2 g | Cl.NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-Amino-3-methoxycarbonylthiophene hydrochloride | 3.65 g | Cl.NC=1C(=CSC1)C(=O)OC | InChI=1S/C6H7NO2S.ClH/c1-9-6(8)4-2-10-3-5(4)7;/h2-3H,7H2,1H3;1H
